US04920116
1-(2,4-Dichlorophenyl)-2-(dimethylamino)ethanone
In a manner similar to Preparation 40 react 2-bromo-1-(2,4-dichlorophenyl)ethanone with dimethylamine to obtain the title compound.

reactant | 2-bromo-1-(2,4-dichlorophenyl)ethanone | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | dimethylamine | CNC | C2H7N
product | 1-(2,4-Dichlorophenyl)-2-(dimethylamino)ethanone | ClC1=C(C=CC(=C1)Cl)C(CN(C)C)=O | C10H11Cl2NO
